US07560473B2
Preparation of N-propyl-2,3-dimethyl-2-butylamine (compound 5)
To a solution of 8.25 g (0.15 mole) propionitrile in 25 mL glacial acetic acid, 15 g concentrated sulfuric acid was added dropwise while controlling the reaction temperature at about 38° C., then 5.2 g (0.051 mole) of 2,3-dimethyl-2-butanol was added dropwise at the temperature below 40° C. with stirring. The mixture was stirred overnight while maintaining the temperature, then poured into glacial water, basified with 40% sodium hydroxide solution and extracted with ether. The ether extract was combined, washed once with water, and dried over anhydrous magnesium sulfate. After recovering the ether, 6.2 g light yellow liquid was obtained and solved in 80 mL anhydrous ether. The resulting solution was added dropwise to a suspension of 3.04 g (0.08 mol) lithium aluminium hydride in 80 mL anhydrous ether. The mixture was refluxed for 10 hours, then cooled. To the mixture, proper amount of 40% aqueous sodium hydroxide was added dropwise and the upper layer of ether was carefully poured out. The lower layer of solid was then washed with ether (×3). The resulting washing and extract ether were combined, dried over anhydrous potassium carbonate and filtered. To the filtrate, HCl-Et2O was added under cooling until the solution is acidic. The solid was collected by filtering and recrystallized three times from iso-propanol and acetone to give a white lamellar crystal 3.33 g (yield 46.33%), mp 183-185° C. Elemental analysis for C9H22NCI (%): Calculated C, 10.15; H, 12.34; N, 7.79. Found C, 60.20; H, 13.80; N, 7.85. 1H-NMR(D2O, ppm) 0.98(d, 6H), 1.00(t, 3H), 1.24(s, 6H), 1.63(m, 2H), 2.05(m, 1H), 2.98(t, 2H). MS(m/z) 143(M+).

reactant | propionitrile | 0.15 mole, 8.25 g | C(CC)#N | C3H5N
reactant | sulfuric acid | 15 g | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dimethyl-2-butanol | 0.051 mole, 5.2 g | CC(C)(C(C)C)O | C6H14O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | lithium aluminium hydride | 0.08 mol, 3.04 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | N-propyl-2,3-dimethyl-2-butylamine | 3.33 g, yield 46.33% | C(CC)NC(C)(C(C)C)C | C9H21N
